datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:72]1=[CH:71][N-:10][C:61](=[O:62])[NH:84][C:73]1=[O:74].[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1>>C[C:72]1=[CH:71][N:10]([CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]2=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]2)[C:61](=[O:62])[NH:84][C:73]1=[O:74] 10=20;20,21=21,22;22,23=23"
"C[C:81]([CH-:10][N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82].C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1>>C[O:21][CH:20]([CH:10]([N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[C:81](C)=[O:82])[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1 10=20;20,21=21"
"C[S+:61](C)[CH-:10][C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]1.Cl[C:20]1=[CH:21][C:22](=[O:23])[C:30](Cl)=[CH:31][C:32]1=[O:33]>>C[S+:61](C)[CH:10]([C:20]1(Cl)[CH:21]=[C:22]([O-:23])[C:30](Cl)=[CH:31][C:32]1=[O:33])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]1 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=CC=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC1(C)[O:72][C:61](=[O:62])[CH:10]=[C:11]([O-:12])[O:82]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10]2[C:11](=[O:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])/[CH:41]=[CH:42]/C2=CC=CC=C2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:12][CH:11]=[CH2:10].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CC[O+:12]=[CH:11][CH2:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]1 10,11=10,20;12=11,12"
"CC[O:72][C:61]([C:10](C)=[P:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:62].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CC[O:72][C:61]([C:10](C)([P+:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1)=[O:62] 10,11=10,20"
"C1=CC=C([N:31]=[C:20]=[S:21])C=C1.C[N:12]1[C:11]([B-:82](F)(F)F)=[CH:10][C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2>>C[N+:12]1=[C:11]([B-:82](F)(F)F)[CH:10]([C:20]([S-:21])=[N:31]C2=CC=CC=C2)[C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2 10,11=10,20;12=11,12;20,21=21"
"C[Si:63]1(C)CC[CH:11]([H:10])[CH2:62]1.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>C[Si:63]1(C)CC[CH+:11][CH2:62]1.[H:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1 10,11=10,20"
"C1C[NH:10]CCO1.[CH:20](=[CH:21]/[N+:22](=[O:23])[O-:33])\[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>C1C[NH+:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)CCO1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([C@@H]2CC[N:12]3C4=C(C=CC=C4)[S:62][C:11]3=[N:10]2)C=C1.C1=CC=C([N:31]=[C:20]=[S:21])C=C1>>C1=CC=C([C@@H]2CC[N+:12]3=[C:11]([N:10]2[C:20]([S-:21])=[N:31]C2=CC=CC=C2)[S:62]C2=C3C=CC=C2)C=C1 10,11=10,20;12=11,12;20,21=21"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1.COC1=C[C:72]2=[C:71](C=C1)[N:10]=[CH:61][CH:62]=[CH:63]2>>COC1=C[C:72]2=[C:71](C=C1)[N+:10]([CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[CH:61][CH:62]=[CH:63]2 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=C[C:72]2=[C:73](C=C1)[C:61](=[O:62])[N:10]=[C:11]2[O-:12].N#C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>N#C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[C:11](=[O:12])[C:72]3=[C:73](C=CC=C3)[C:61]2=[O:62])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([P:11](C2=CC=CC=C2)(C2=CC=CC=C2)=[CH:10][C:61]#[N:62])C=C1.C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]([P+:11](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:61]#[N:62])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[C:61]([N-:10][C:71](C)=[O:72])=[O:62]>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]([C:61](C)=[O:62])[C:71](C)=[O:72])[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"COC1=CC=C(/[CH:42]=[CH:41]/[CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)C=C1.C[Sn:63](C)(C)[CH:62]1C2=C(C=CC=C2)[CH:10]=[CH:11]1>>COC1=CC=C(/[CH:42]=[CH:41]/[CH:20]([CH:10]2C3=C(C=CC=C3)[CH:62]([Sn:63](C)(C)C)[CH+:11]2)[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)C=C1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
